US06350761B1
To a mixture of 4-[(N-(t-butoxycarbonyl)piperidin-4-yl)oxy]-3-trifluoromethylbenzenamine (4.9 g) and 3-cyano-6-((4-methoxybenzyl)oxy)-1-(2-formylethenyl)benzene (4 g) in MeOH (80 mL) was added acetic acid (0.73 g). The resulting solution was stirred at ambient temperature for 15 minutes and then NaCNBH3 was added. The resulting solution was stirred at ambient temperature for 1 hour and concentrated. The residue was taken up in 100 mL of aqueous NaHCO3 and extracted with ethyl acetate (3×). The organic layer was dried, concentrated and purified on silica gel column (ethyl acetate/hexane, 3:7) to afford 5.7 g of 4-(N (t-butoxycarbonyl)piperidin-4-yl)oxy-3-trifluoromethyl-N-(3-(6-((4-methoxybenzyl)oxy)-3-cyanophenyl)prop-2-en-1-yl)benzenamine as a yellow oil.

reactant | 4-[(N-(t-butoxycarbonyl)piperidin-4-yl)oxy]-3-trifluoromethylbenzenamine | 4.9 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)N)C(F)(F)F | C17H23F3N2O3
reactant | 3-cyano-6-((4-methoxybenzyl)oxy)-1-(2-formylethenyl)benzene | 4 g | C(#N)C=1C=C(C(=CC1)OCC1=CC=C(C=C1)OC)C=CC=O | C18H15NO3
reactant | acetic acid | 0.73 g | C(C)(=O)O | C2H4O2
reactant | NaCNBH3 | [BH3-]C#N.[Na+]
solvent | MeOH | 80 mL | CO | CH4O
product | 4-(N (t-butoxycarbonyl)piperidin-4-yl)oxy-3-trifluoromethyl-N-(3-(6-((4-methoxybenzyl)oxy)-3-cyanophenyl)prop-2-en-1-yl)benzenamine | 5.7 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)NCC=CC1=CC(=CC=C1OCC1=CC=C(C=C1)OC)C#N)C(F)(F)F | C35H38F3N3O5
